US04201790
A mixture of 2-(2,3-epoxypropoxy)-3,4,6-trimethylbenzophenone (10.0 g.), isopropylamine (10 ml.) and anhydrous methanol (100 ml.) was heated at reflux for 17 hours. The solution was evaporated in vacuo and the residue was dissolved in water (100 ml.) containing concentrated hydrochloric acid (6 ml.). The solution was filtered through charcoal and kieselguhr, adjusted to pH 11 by means of 2 N aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was washed 3 times with water, dried over anhydrous sodium sulphate and evaporated. The residue was recystallized from cyclohexane to give DL-1-(2-benzoyl-3,5,6-trimethylphenoxy)-2-hydroxy-3-isopropylaminopropane (6.6 g.), m.p. 121°-123° C.

reactant | 2-(2,3-epoxypropoxy)-3,4,6-trimethylbenzophenone | 10.0 g | O1C(COC2=C(C(=O)C3=CC=CC=C3)C(=CC(=C2C)C)C)C1 | C19H20O3
reactant | isopropylamine | 10 ml | C(C)(C)N | C3H9N
solvent | methanol | 100 ml | CO | CH4O
product | 1-(2-benzoyl-3,5,6-trimethylphenoxy)-2-hydroxy-3-isopropylaminopropane | 6.6 g | C(C1=CC=CC=C1)(=O)C1=C(OCC(CNC(C)C)O)C(=C(C=C1C)C)C | C22H29NO3
